US20010025049A1
Intermediate 2 8-(Tert-butyldimethylsilanyloxy)-2-trifluoromethylquinoline
A solution of 2-trifluoromethylquinolin-8-ol (11.5 g), tert-butyldimethylsilyl chloride (8.9 g) and triethylamine (6.5 g) in dichloromethane (60 ml) was stirred overnight at room temperature. The reaction mixture was washed with water (2×50 ml), dried over sodium sulfate, filtered and the solvent removed in vacuo to give the product (17.9 g) as a white solid.

reactant | 2-trifluoromethylquinolin-8-ol | 11.5 g | FC(C1=NC2=C(C=CC=C2C=C1)O)(F)F | C10H6F3NO
reactant | tert-butyldimethylsilyl chloride | 8.9 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 6.5 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 8-(Tert-butyldimethylsilanyloxy)-2-trifluoromethylquinoline | 17.9 g | [Si](C)(C)(C(C)(C)C)OC=1C=CC=C2C=CC(=NC12)C(F)(F)F | C16H20F3NOSi
